US04080275
To a mechanically stirred solution of 1000 grams (7.12 moles) of benzoyl chloride in 6000 grams of toluene was added 1000 grams (7.50 moles) of anhydrous aluminum chloride over a 20- 30 minute period. The temperature of the reaction mixture rose to near the boiling point during the addition, and heating at reflux was maintained for three additional hours. After cooling, 1200 milliliters of water were added, slowly at first, followed by 1000 milliliters of concentrated hydrochloric acid. The organic layer was separated, washed twice with hot water and concentrated on a rotary evaporator. Vacuum distillation of the residual oil provided 1300 grams (93% yield) of white, semi-solid methyl benzophenone; (b.p. 180°-200° C., 10- 15 mm Hg; m.p. 50° C.) The infrared spectrum revealed a carbonyl band at 1665 cm -1.

reactant | benzoyl chloride | 7.12 moles, 1000 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 7.50 moles, 1000 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 1200 milliliters | O | H2O
reactant | hydrochloric acid | 1000 milliliters | Cl | ClH
reactant | toluene | 6000 grams | C1(=CC=CC=C1)C | C7H8
product | methyl benzophenone | 93% yield | CC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C14H12O
